US05359114
In a 500 ml three-neck flask provided with a magnetic stirrer and a reflux condenser were charged 19.6 g (0.0841 mole) of cyclopentyl triethoxysilane, 98.0 g (1.63 mole) of isopropyl alcohol and 198.7 mg (2.92 m mole) of sodium ethoxide, which were then reacted with each other at room temperature for 2 hours under stirring. Then, trimethylchlorosilane was added to neutralize the alkali. Then, 9.56 g (0.0388 mole) of isopropoxy cyclopentyl diethoxysilane were obtained by vacuum distillation. Its structure was confirmed as in Example 1. Tile yield was 46%.

reactant | cyclopentyl triethoxysilane | 0.0841 mole, 19.6 g | C1(CCCC1)[Si](OCC)(OCC)OCC | C11H24O3Si
reactant | isopropyl alcohol | 1.63 mole, 98.0 g | C(C)(C)O | C3H8O
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
catalyst | sodium ethoxide | 198.7 mg | [O-]CC.[Na+]
product | isopropoxy cyclopentyl diethoxysilane | 0.0388 mole, 9.56 g, yield was 46% | C(C)(C)O[Si](OCC)(OCC)C1CCCC1 | C12H26O3Si
